US08859572B2
Intermediate G: Preparation of 3-chloro-N,N-diethylpropane-1-sulfonamide
The procedure used for the preparation of Intermediate D was used to prepare the title compound from 3-chloropropanesulfonyl chloride and diethylamine. High vacuum drying gave the title compound (570 mg, 95%) which was used without characterization in the next step.

reactant | 3-chloropropanesulfonyl chloride | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | diethylamine | C(C)NCC | C4H11N
product | 3-chloro-N,N-diethylpropane-1-sulfonamide | ClCCCS(=O)(=O)N(CC)CC | C7H16ClNO2S
